US05756811
o-Piperidinomethyl-phenylglyoxylic acid ethyl ester Ve
A solution of n-butyllithium in toluene (20%; 65.6 g; 0.20 mol) is added over the course of from 10 to 15 min to a solution of 31 g of N-benzylpiperidine (0.175 mol) in 60 ml of tert-butyl methyl ether. The reaction mixture is heated at from 55° to 60° C. for approximately 18 h and then metered at RT into a cold (-20° C.) solution of 50.1 g of diethyl oxalate (0.42 mol) in 160 ml of toluene. The mixture is heated to RT and stirred at from 20° to 25° C. for 30 min. Acetic acid (100%; 12.6 g; 0.21 mol) and a mixture of 50 g of crushed ice and 100 g of water are then added to the reaction mixture. The phases are separated and the organic phase is washed with 50 ml of water and concentrated by evaporation in vacuo: 43.2 g (content 89%; yield 80%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | N-benzylpiperidine | 0.175 mol, 31 g | C(C1=CC=CC=C1)N1CCCCC1 | C12H17N
reactant | diethyl oxalate | 0.42 mol, 50.1 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Acetic acid | 0.21 mol, 12.6 g | C(C)(=O)O | C2H4O2
solvent | tert-butyl methyl ether | 60 ml | COC(C)(C)C | C5H12O
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.20 mol, 65.6 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 g | O | H2O
product | o-Piperidinomethyl-phenylglyoxylic acid ethyl ester | yield 80% | C(C)OC(C(=O)C1=C(C=CC=C1)CN1CCCCC1)=O | C16H21NO3
